US09340546B2
tert-butyl 1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)pyridin-4-yl)piperidine-4-carboxylate prepared according to methods similar to the one depicted in Example 1 was dissolved in DCM (5 mL). TFA (1 mL, 12.98 mmol) was added and the mixture was stirred at RT for 5 hr. The reaction mixture was concentrated to give 1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperidine-4-carboxylic acid as a beige solid that was used in next step without further purification. MS (ES+) 418.1.

reactant | tert-butyl 1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)pyridin-4-yl)piperidine-4-carboxylate | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=CC1N1CCC(CC1)C(=O)OC(C)(C)C | C22H26FN7O3
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperidine-4-carboxylic acid | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)O)F | C18H17F2N7O3
